US04829067
A mixture of 1.5 g of 2-piperidinoethyl 5-nitro-2-phenylbenzofuran-7-carboxylate, 4.29 g of stannous chloride dihydrate and 100 ml of ethyl acetate is heated at 70°-80° C. for 2 hours. The reaction mixture is neutralized with an aqueous saturated sodium bicarbonate solution and extracted with ethyl acetate. The extract is washed, dried and evaporated to remove solvent. The residue is recrystallized from isopropanol to give 995 mg of 2-piperidinoethyl 5-amino-2-phenylbenzofuran-7-carboxylate as yellow needles.

reactant | 2-piperidinoethyl 5-nitro-2-phenylbenzofuran-7-carboxylate | 1.5 g | [N+](=O)([O-])C=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)OCCN1CCCCC1 | C22H22N2O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-piperidinoethyl 5-amino-2-phenylbenzofuran-7-carboxylate | 995 mg | NC=1C=C(C2=C(C=C(O2)C2=CC=CC=C2)C1)C(=O)OCCN1CCCCC1 | C22H24N2O3
